US09334290B2
A mixture of N-(3-bromo-2-methylphenyl)-2-(3-chloropyridin-2-yl)acetamide (4.0 g, 11.78 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.29 g, 12.96 mmol) in DMSO (5 mL) and dioxane (25 mL) was bubbled with argon for 7 min, followed by addition of potassium acetate (2.89 g, 29.4 mmol). Argon bubbling was continued for 7 min after which PdCl2(dppf) DCM adduct (0.481 g, 0.589 mmol) was added. The mixture was heated at 90° C. for 7 h. The cooled mixture was diluted with EtOAc and filtered through CELITE®. The filtrate was washed sequentially with water and brine. The combined aqueous layers were extracted with EtOAc, and the combined organic phases were dried and concentrated. The residue was recrystallized from EtOAc to provide a white solid. The mother liquor was concentrated and the residue was recrystallized from EtOAc. The two solids were combined to provide 2-(3-chloropyridin-2-yl)-N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide as a white solid (3.88 g, 85% yield). Mass spectrum m/z 387 (M+H)+.

reactant | N-(3-bromo-2-methylphenyl)-2-(3-chloropyridin-2-yl)acetamide | 11.78 mmol, 4.0 g | BrC=1C(=C(C=CC1)NC(CC1=NC=CC=C1Cl)=O)C | C14H12BrClN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 12.96 mmol, 3.29 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 29.4 mmol, 2.89 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.589 mmol, 0.481 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(3-chloropyridin-2-yl)-N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide | 3.88 g, 85% yield | ClC=1C(=NC=CC1)CC(=O)NC1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C20H24BClN2O3
